US04011236
N-(Benzimidazol-2-yl)phthalimide (4 g.) in 200 ml. of n-butyl alcohol is heated at 115° C. for 35 minutes. On cooling, colorless needles form. These are removed by suction filtration, washed with butyl alcohol and finally with diethyl ether. After drying for three hours at 125° C. under vacuum, a yield of 2.5 g. of N-(benzimidazol-2-yl)-2-(n-butoxycarbonyl)-benzamide, m.p. 187° C., is obtained. Additional heating to higher temperatures causes a reclosure to the phthalimide and remelting which corresponds to the phthalimide, m.p. 267°-268° C.

reactant | N-(Benzimidazol-2-yl)phthalimide | 4 g | N1=C(NC2=C1C=CC=C2)N2C(C=1C(C2=O)=CC=CC1)=O | C15H9N3O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | N-(benzimidazol-2-yl)-2-(n-butoxycarbonyl)-benzamide | N1=C(NC2=C1C=CC=C2)NC(C2=C(C=CC=C2)C(=O)OCCCC)=O | C19H19N3O3
